US04730008
1-[4-[(6-Bromohexyl)oxy]butyl]-4-(methylthio)benzene
From 4-(methylthio)benzenebutanol (5.6 g), 1,6-dibromohexane (18.3 g), TAB (0.5 g) and aqueous sodium hydroxide (50% w/v, 20 ml).

reactant | 4-(methylthio)benzenebutanol | 5.6 g | CSC1=CC=C(C=C1)CCCCO | C11H16OS
reactant | 1,6-dibromohexane | 18.3 g | BrCCCCCCBr | C6H12Br2
solvent | sodium hydroxide | 20 ml | [OH-].[Na+]
product | 1-[4-[(6-Bromohexyl)oxy]butyl]-4-(methylthio)benzene | BrCCCCCCOCCCCC1=CC=C(C=C1)SC | C17H27BrOS
